* Marco 5T OTA: nfet pair W=5.7/L=0.5 gm/ID~14, pfet mirror W=9.26/L=1 gm/ID~8, ideal tail 35.86u (sheet formula has no tail term), VDD 1.8, CL 2p
.param mc_mm_switch=0
.param mc_pr_switch=0
.include ~/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
VDD vdd 0 1.8
VIP inp 0 dc 1.0 ac 1
VIN inn 0 dc 1.0
XM1 n1 inp tail 0 sky130_fd_pr__nfet_01v8 L=0.5 W=5.7 nf=1
XM2 out inn tail 0 sky130_fd_pr__nfet_01v8 L=0.5 W=5.7 nf=1
XM3 n1 n1 vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=9.26 nf=1
XM4 out n1 vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=9.26 nf=1
IT tail 0 35.86u
CL out 0 2p
.ac dec 20 100 1g
.end
